US07910735B2
Production of N-{3-isobutyl-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]pheny}-3-trifluoromethylpyrazine-2-carboxamide (Compound No. 1-42)
3-Trifluoromethyl-2-pyrazine carboxylic acid (192 mg, 1 mmol), 3-isobutyl-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]aniline (199 mg, 1 mmol), 2-chloro-1-methylpyridinium iodide (255 mg, 1 mmol) and triethylamine (303 mg, 3 mmol) were dissolved in THF (10 ml) and refluxed under heating for 2 hours. The reaction solution was diluted with ethyl acetate, followed by washing with water. The organic layer was dried over magnesium sulfate anhydride, and concentrated under reduced pressure, and then the solution was purified by using silica gel chromatography (hexane:ethyl acetate=2:1) to obtain 293 mg of the desired compound as paste state.

reactant | 3-Trifluoromethyl-2-pyrazine carboxylic acid | 1 mmol, 192 mg | FC(C=1C(=NC=CN1)C(=O)O)(F)F | C6H3F3N2O2
reactant | 3-isobutyl-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]aniline | 1 mmol, 199 mg | C(C(C)C)C=1C=C(N)C=CC1C(C(F)(F)F)C(F)(F)F | C13H15F6N
reactant | 2-chloro-1-methylpyridinium iodide | 1 mmol, 255 mg | [I-].ClC1=[N+](C=CC=C1)C
reactant | triethylamine | 3 mmol, 303 mg | C(C)N(CC)CC | C6H15N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{3-isobutyl-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]pheny}-3-trifluoromethylpyrazine-2-carboxamide | 293 mg, Yield: 62% | C(C(C)C)C=1C=C(C=CC1C(C(F)(F)F)C(F)(F)F)NC(=O)C1=NC=CN=C1C(F)(F)F | C19H16F9N3O
